US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (0.37 g, 1 mmol) and triethylamine (0.30 mL, 2.2 mmol) in acetonitrile (10 mL) was added morpholine-4-carbonyl chloride (012 mL, 1.05 mmol) at room temperature under nitrogen. After 4 h, the reaction mixture was filtered and rinsed with acetonitrile (30 mL) and the filtrate was concentrate on the rota-vap. The residue was stirred with 20 mL of acetonitrile and water mixture (1:1). The resulted suspension was filtered to give morpholine-4-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide as a white solid (0.08 g, 20% yield): HPLC: Waters Nova-Pak C18 column, 3.9×150 mm, 4 μm; gradient CH3CN/0.1% aq H3PO4, 10 min, 1.0 mL/min, 4.8 min (96%); mp: 208-210° C.; 1H NMR (DMSO-d6) δ 1.92-2.07 (m, 1H, CHH), 2.39 (qd, J=4.4, 13.3 Hz, 1H, CHH), 2.55-2.66 (m, 1H, CHH), 2.84-2.99 (m, 1H, CHH), 3.27-3.32 (m, 4H, CH2+CH2), 3.52-3.59 (m, 4H, CH2+CH2), 4.25-4.49 (m, 4H, CH2+CH2), 5.11 (dd, J=5.0, 13.3 Hz, 1H, CHN), 7.22 (t, J=5.8 Hz, 1H, Ar), 7.40 (d, J=7.9 Hz, 1H, Ar), 7.47 (s, 1H, NH), 7.67 (d, J=7.9 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.51, 31.20, 43.54, 43.86, 47.10, 51.56, 65.92, 121.88, 122.77, 126.89, 130.11, 142.23, 145.28, 157.57, 168.02, 171.01, 172.86; LCMS: MH=387; Anal Calcd for C19H22N4O5+0.6H2O: C, 57.45; H, 5.89; N, 14.10. Found: C, 57.10; H, 6.07; N, 13.97.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 1 mmol, 0.37 g | NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C14H15N3O3
reactant | triethylamine | 2.2 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine-4-carbonyl chloride | 1.05 mmol | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | morpholine-4-carboxylic acid [2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-amide | 0.08 g, 20% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)N1CCOCC1)=O)=O | C19H22N4O5
